US06124314
5-(3-tert-Butoxycarbonylamino-prop-1-ynyl)-furan-2-carboxylic acid methyl ester.
The title compound of Step A was prepared from 5-bromo-furan-2-carboxylic acid methyl ester and prop-2-ynyl-carbamic acid tert-butyl ester as described in Step A of Preparation 2.

reactant | 5-bromo-furan-2-carboxylic acid methyl ester | COC(=O)C=1OC(=CC1)Br | C6H5BrO3
reactant | prop-2-ynyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC#C)=O | C8H13NO2
product | 5-(3-tert-Butoxycarbonylamino-prop-1-ynyl)-furan-2-carboxylic acid methyl ester | COC(=O)C=1OC(=CC1)C#CCNC(=O)OC(C)(C)C | C14H17NO5
